US07452911B2
3.64d 3-(4-chloro-phenyl)-6-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylethynyl]-pyridazine
Prepared according to general working method I from 1-[2-(4-iodo-phenoxy)-ethyl]-pyrrolidine (200 mg, 0.63 mmol) and 3-(4-chloro-phenyl)-6-ethynyl-pyridazine (135 mg, 0.63 mmol).

reactant | 1-[2-(4-iodo-phenoxy)-ethyl]-pyrrolidine | 0.63 mmol, 200 mg | IC1=CC=C(OCCN2CCCC2)C=C1 | C12H16INO
reactant | 3-(4-chloro-phenyl)-6-ethynyl-pyridazine | 0.63 mmol, 135 mg | ClC1=CC=C(C=C1)C=1N=NC(=CC1)C#C | C12H7ClN2
product | 3-(4-chloro-phenyl)-6-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylethynyl]-pyridazine | ClC1=CC=C(C=C1)C=1N=NC(=CC1)C#CC1=CC=C(C=C1)OCCN1CCCC1 | C24H22ClN3O
